data/rdb19/train.csv
rxn,smiles,ea
3128,[C:16]([C:17]([C:18]([H:19])[N:20]([C:21](=[O:22])[H:29])[H:28])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([H:19])[N:20]([C:21](=[O:22])[H:29])[H:28])[H:27])([H:23])([H:24])[H:25].[C:1]([H:8])([H:9])([H:10])[H:26].[C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12],82.27381877735024
1332,[C:10]([C:11]([C:12]([H:13])[H:14])([C:15](=[O:16])[N:17]([H:22])[H:23])[H:21])([H:18])([H:19])[H:20].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([C:11](=[C:12]([H:13])[H:14])[C:15](=[O:16])[N:17]([H:22])[H:23])([H:18])([H:19])[H:20].[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])([H:9])[H:21])[H:7])[H:6],25.894882396794856
2156,[C:11]([C:12]([C:13]([H:14])[O:15][C:16](=[O:17])[C:18]([H:24])([H:25])[H:26])([H:22])[H:23])([H:19])([H:20])[H:21].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N:1]([C:2]([O:3][C:13]([C:12]([C:11]([H:19])([H:20])[H:21])([H:22])[H:23])([H:14])[O:15][C:16](=[O:17])[C:18]([H:24])([H:25])[H:26])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7],21.440870668157004
2325,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9](=[C:10]([H:17])[H:18])[C:11](=[O:12])[O:13][H:19])([H:14])([H:15])[H:16]>>[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[C:8]([C:9](=[C:10]([H:17])[H:18])[C:11](=[O:12])[O:13])([H:14])([H:15])[H:16].[H:5][H:19],59.142834192549344
1471,[C:10]([O:11][C:12]([C:13]([H:21])([H:22])[H:23])([C:14]([H:15])[H:16])[H:20])([H:17])([H:18])[H:19].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])[H:9])([H:7])[C:14]([C:12]([O:11][C:10]([H:17])([H:18])[H:19])([C:13]([H:21])([H:22])[H:23])[H:20])([H:15])[H:16])[H:6],14.773836113454308
3232,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([H:24])[c:25]1[c:26]([H:36])[c:27]([H:37])[c:28]([H:38])[c:29]([H:39])[c:30]1[H:40])([H:34])[H:35])([H:31])([H:32])[H:33]>>[C:1]([H:7])([H:8])[H:9].[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])([H:11])[C:23]([C:22]([C:21]([H:31])([H:32])[H:33])([H:34])[H:35])([H:24])[c:25]1[c:26]([H:36])[c:27]([H:37])[c:28]([H:38])[c:29]([H:39])[c:30]1[H:40],79.5591438471456
4747,[C:1]([H:2])([H:3])[H:4].[C:5](=[C:6]([c:7]1[c:8]([H:16])[c:9]([H:17])[c:10]([H:18])[c:11]([H:19])[c:12]1[H:20])[H:15])([H:13])[H:14]>>[C:1]([H:2])([H:3])([H:4])[H:17].[C:5](=[C:6]([c:7]1[c:8]([H:16])[c:9][c:10]([H:18])[c:11]([H:19])[c:12]1[H:20])[H:15])([H:13])[H:14],22.817952059704112
76,[C:12]([C:13]([C:14](=[C:15]([H:22])[H:23])[H:21])([H:19])[H:20])([H:16])([H:17])[H:18].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:12]([C:13]([C:14]=[C:15]([H:22])[H:23])([H:19])[H:20])([H:16])([H:17])[H:18].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[H:21])([H:6])([H:7])[H:8],30.637520683492767
5293,[C:1]([C:2]([C:3]([H:4])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:14])[H:15])([H:11])([H:12])[H:13].[C:21]([C:22](=[O:23])[O:24][C:25](=[C:26]([H:31])[H:32])[H:30])([H:27])([H:28])[H:29]>>[C:1]([C:2](=[C:3]([H:4])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:14])([H:11])([H:12])[H:13].[H:15][C:22]([C:21]([H:27])([H:28])[H:29])([O:23])[O:24][C:25](=[C:26]([H:31])[H:32])[H:30],50.19739615597064
4164,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20](=[C:21]([N:22]([C:23](=[O:24])[H:29])[H:28])[H:27])([H:25])[H:26]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[N:22]([C:21](=[C:20]([H:25])[H:26])[H:27])[H:28])([H:12])[H:13])([H:9])([H:10])[H:11].[C:23](=[O:24])[H:29],47.33660589240026
50,[C:12]([C:13]([O:14][C:15](=[O:16])[C:17](=[C:18]([H:25])[H:26])[H:24])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:12]([C:13]([O:14])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[C:15](=[O:16])[C:17](=[C:18]([H:25])[H:26])[H:24])([H:6])([H:7])[H:8],55.28516501683043
1534,[C:10]([C:11]([C:12]([H:13])[O:14][C:15](=[O:16])[C:17]([H:23])([H:24])[H:25])([H:21])[H:22])([H:18])([H:19])[H:20].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])[H:9])([H:7])[C:12]([C:11]([C:10]([H:18])([H:19])[H:20])([H:21])[H:22])([H:13])[O:14][C:15](=[O:16])[C:17]([H:23])([H:24])[H:25])[H:6],15.67945525801042
